US08461179B1
A mixture of 4-amino-2-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile (420 mg, 1.23 mmol) and methylamine (25%, 50 mL) was heated at 120° C. in a pressure vessel for 1 day. The mixture was cooled to RT, the solid collected via filtration and purified via silica gel chromatography (EtOAc/pet ether) to afford 4-amino-2-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile (250 mg, 61% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.42 (s, 1H), 7.81 (s, 1H), 7.72 (s, 1H), 7.53 (d, J=11.6 Hz, 1H), 7.09-7.08 (m, 1H), 6.81 (d, J=8.4 Hz, 1H), 6.23 (s, 2H), 4.16-4.11 (q, J=6.8 Hz, 2H), 2.85 (d, J=4.8 Hz, 3H), 1.22-1.18 (t, J=6.8 Hz, 3H).

reactant | 4-amino-2-(7-chloro-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile | 1.23 mmol, 420 mg | NC1=CC(=C(C#N)C=C1F)C=1C(N(C2=CC(=NC=C2C1)Cl)CC)=O | C17H12ClFN4O
reactant | methylamine | 50 mL | CN | CH5N
product | 4-amino-2-(1-ethyl-7-(methylamino)-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-5-fluorobenzonitrile | 250 mg, 61% yield | NC1=CC(=C(C#N)C=C1F)C=1C(N(C2=CC(=NC=C2C1)NC)CC)=O | C18H16FN5O
